US09334480B2
2-{4-[2-(3-chloro-phenyl)-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-3H-benzoimidazole-4-carboxylic acid 4-fluoro-benzylamide was synthesized from 2-{4-[2-(3-chloro-phenyl)-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-3H-benzoimidazole-4-carboxylic acid, benzylamine, DIEA, HATU and DMF using a similar procedure as 2-[4-((S)-2-hydroxy-2-phenyl-ethylamino)-2-oxo-1,2-dihydro-pyridin-3-yl]-3H-benzoimidazole-4-carboxylic acid 3-fluoro-benzylamide yielding 2-{4-[2-(3-chloro-phenyl)-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-3H-benzoimidazole-4-carboxylic acid 4-fluoro-benzylamide. LC/MS calcd for C28H23ClFN5O2 (m/e) 515.0, obsd 516 (M+H). 1H NMR (tautomers, DMSO-d6) δ: 13.30-13.51 (m, 1H), 11.11-11.49 (m, 1H), 9.98-10.95 (m, 1H), 9.06-9.36 (m, 1H), 7.68-8.00 (m, 2H), 6.93-7.65 (m, 11H), 6.22 (d, J=7.3 Hz, 1H), 4.47-4.74 (m, 2H), 3.59-3.85 (m, 2H), 3.05 (t, J=6.9 Hz, 2H).

reactant | 2-{4-[2-(3-chloro-phenyl)-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-3H-benzoimidazole-4-carboxylic acid | ClC=1C=C(C=CC1)CCNC1=C(C(NC=C1)=O)C=1NC2=C(N1)C=CC=C2C(=O)O | C21H17ClN4O3
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-[4-((S)-2-hydroxy-2-phenyl-ethylamino)-2-oxo-1,2-dihydro-pyridin-3-yl]-3H-benzoimidazole-4-carboxylic acid 3-fluoro-benzylamide | FC=1C=C(CNC(=O)C2=CC=CC=3N=C(NC32)C=3C(NC=CC3NC[C@H](C3=CC=CC=C3)O)=O)C=CC1 | C28H24FN5O3
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-{4-[2-(3-chloro-phenyl)-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-3H-benzoimidazole-4-carboxylic acid 4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2=CC=CC=3N=C(NC32)C=3C(NC=CC3NCCC3=CC(=CC=C3)Cl)=O)C=C1 | C28H23ClFN5O2
